US07700628B2
E. N-(4-chlorophenyl)-2-aminobenzamide
A mixture of 20 g (123 mmol) isatoic anhydride (formed by treating anthranilic acid with phosgene) and 15.64 g (123 mmol) 4-chloroaniline was heated at 120° C. for 2 hours. The reaction was cooled to room temperature, mixed with CH2Cl2 and filtered.

reactant | isatoic anhydride | 123 mmol, 20 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 4-chloroaniline | 123 mmol, 15.64 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(4-chlorophenyl)-2-aminobenzamide | ClC1=CC=C(C=C1)NC(C1=C(C=CC=C1)N)=O | C13H11ClN2O
